US03966966
Step B: 2-(p-Chlorophenyl)-2-methyl-4,5-dichloro-6-hydroxyindan-1,3-dione
A stirred mixture of 2-(p-chlorophenyl)-2-methyl-4,5-dichloro-6-methoxyindan-1,3-dione (4.42 g., 0.012 mole) and pyridine hydrochloride (40 g.) is heated at 180°C. for 1 hour, then poured into water (500 ml.). The 2-(p-chlorophenyl)-2-methyl-4,5-dichloro-6-hydroxyindan-1,3-dione which separates is filtered and dried.

reactant | 2-(p-chlorophenyl)-2-methyl-4,5-dichloro-6-methoxyindan-1,3-dione | 0.012 mole, 4.42 g | ClC1=CC=C(C=C1)C1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)OC)=O)C | C17H11Cl3O3
reactant | pyridine hydrochloride | 40 g | Cl.N1=CC=CC=C1
solvent | water | 500 ml | O | H2O
product | 2-(p-Chlorophenyl)-2-methyl-4,5-dichloro-6-hydroxyindan-1,3-dione | ClC1=CC=C(C=C1)C1(C(C2=CC(=C(C(=C2C1=O)Cl)Cl)O)=O)C | C16H9Cl3O3
